US07662809B2
Step 8: 14-cyclohexyl-5-[2-(dimethylamino)ethyl]-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylic Acid
To a solution of methyl 14-cyclohexyl-5-[2-(dimethylamino)ethyl]-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate in DCM (0.1M) 7 eq BBr3 (1M solution in DCM) were added. The solution stirred at RT for 20 mins. The volatiles were evaporated in vacuo. The crude was then purified by prep RP-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 um, 19×150 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound (40% over two steps).

reactant | methyl 14-cyclohexyl-5-[2-(dimethylamino)ethyl]-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCC(N(C3=C(C21)C=CC=C3)CCN(C)C)=O)C(=O)OC | C29H35N3O3
reactant | DCM | 0.1M, 7 eq | C(Cl)Cl | CH2Cl2
product | 14-cyclohexyl-5-[2-(dimethylamino)ethyl]-6-oxo-5,6,7,8-tetrahydroindolo[1,2-e][1,5]benzodiazocine-11-carboxylic Acid | 40% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCC(N(C3=C(C21)C=CC=C3)CCN(C)C)=O)C(=O)O | C28H33N3O3
